US07960552B2
To a solution of methyl 6-[4-({[5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (70 mg, 0.13 mmol) in 2:1 tetrahydrofuran:methanol (1.5 mL) was added 1 N sodium hydroxide (0.19 mL, 0.19 mmol). The solution was heated in a microwave reactor at 120° C. for 500 seconds. Then (0.19 mL, 0.19 mmol) 1 N hydrochloric acid was added and the solution was concentrated. The residue was taken up with water and extracted twice with ethyl acetate. The combined organic layers were washed with brine and concentrated. The resulting solid was dried under a nitrogen stream at 45° C. over 48 hours to afford 6-[4-({[5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid as a yellow solid (53 mg, 78%). 1H-NMR (400 MHz, DMSO-d6) δ 13.37 (br s, 1H), 8.81 (s, 2H), 8.53 (d, J=9 Hz, 1H), 8.28 (s, 1H), 8.18-8.08 (m, 3H), 7.74 (d, J=9 Hz, 2H), 6.92 (d, J=9 Hz, 2H), 5.02 (s, 2H), 2.52-2.46 (m, 1H), 1.23-1.10 (m, 4H). HRMS (ESI) C28H19Cl2N3O4 calculated: 532.0825 [M+H]+, found: 532.0823 [M+H]+.

reactant | methyl 6-[4-({[5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.13 mmol, 70 mg | C1(CC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C29H21Cl2N3O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.19 mmol, 1 N, 0.19 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.19 mmol, 1 N, 0.19 mL | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
product | 6-[4-({[5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 53 mg, 78% | C1(CC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O | C28H19Cl2N3O4
